US07166595B2
a) Boc-D-Valine amide
To a stirred solution of Boc-D-Valine (25 g, 115 mMol) in THF (300 mL) at 0° C. was added N-Methylmorpholine (15 mL, 136 mMol) followed by the dropwise addition of isoButyl chloroformate (18 mL, 139 mMol) over 5 minutes. The reaction was stirred at 0° C. for 30 minutes after which a solution of 30 wt. % NH4OH (50 mL, 385 mMol) was quickly poured into the reaction. (Vigorous gas evolution was seen which subsided after a few minutes.) The reaction was allowed to warm to RT and stirred for 4 h. The reaction was concentrated under vacuum on the rotoevaporator to a volume which precipitated most of the product. The thick white slurry was diluted with an equal volume of water, filtered, rinsed with water, pressed dry then dried under vacuum to give the title compound (22.56 g, 91%) as a white solid: 1H NMR (400 MHz, CDCl3) δ 6.17 (br s, 1H), 5.75 (br s, 1H), 5.12 (d, 1H), 4.00 (app. t, 1H), 2.13 (m, 1H), 1.44 (s, 9H), 0.99 (d, 3H), 0.94 (d, 3H).

reactant | Boc-D-Valine | 115 mMol, 25 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | N-Methylmorpholine | 136 mMol, 15 mL | CN1CCOCC1 | C5H11NO
reactant | isoButyl chloroformate | 139 mMol, 18 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NH4OH | 385 mMol, 50 mL | [NH4+].[OH-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | Boc-D-Valine amide | 22.56 g, 91% | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)N | C10H20N2O3
